US07834002B2
6-Methylpicolinic acid (1.37 g) and morpholine (870 mg) was dissolved in 30 mL of DMF, and thereto 1.6 g of HOBt was added under stirring at ice temperature. After the mixture was stirred at same temperature for 15 minutes, additionally 2.3 g of WSC was added, and the solution was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and water was added to the residue, and then the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was removed. The resulting residue was purified by chromatography on silica gel (methylene chloride-methanol-triethylamine=900:30:1) to give 1.71 g of (6-methylpyridin-2-yl)morpholin-4-ylmethanone as a colorless oil.

reactant | 6-Methylpicolinic acid | 1.37 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | morpholine | 870 mg | N1CCOCC1 | C4H9NO
reactant | HOBt | 1.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 2.3 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (6-methylpyridin-2-yl)morpholin-4-ylmethanone | 1.71 g | CC1=CC=CC(=N1)C(=O)N1CCOCC1 | C11H14N2O2
